US04096337
A mixture of the cis and trans isomers of 3-phenylcyclobutane carboxylic acid (6.8g.) in methanol (100ml.) and concentrated suphuric acid (0.5ml.) was refluxed overnight. The solution was concentrated to about 15ml., water was added and the mixture was extracted with ethyl acetate. The ethyl acetate extracts were combined and dried over anhydrous magnesium sulphate, the solvent was evaporated and the residue was distilled, to give methyl 3-phenylcyclobutanecarboxylate as a mixture of cis- and trans-isomers, b.p. 100°-120° C./0.2 mm. Hg.

reactant | 3-phenylcyclobutane carboxylic acid | 6.8g | C1(=CC=CC=C1)C1CC(C1)C(=O)O | C11H12O2
reactant | methanol | 100ml | CO | CH4O
product | methyl 3-phenylcyclobutanecarboxylate | C1(=CC=CC=C1)C1CC(C1)C(=O)OC | C12H14O2
